US05284838
trans-6-Cyano-4-(1,6-dihydro-6-oxopyridazin-1-yl)-2,2-dimethylchroman-3-ol: SR 44 758
1 g of 6-cyano-2,2-dimethyl-3,4-epoxychromane and 1 g of 3-hydroxypyridazine are refluxed for 20 hours in 5 ml of dioxane, in the presence of 0.20 ml of a methanolic solution containing 35% of benzyltrimethylammonium hydroxide. The mixture is concentrated under vacuum and the residue is then triturated in 20 ml of water; the precipitate obtained is filtered off, washed with water and isopropyl ether and then recrystallized from 10 ml of isopropyl alcohol to give 0.9 g of the expected product.

reactant | 6-cyano-2,2-dimethyl-3,4-epoxychromane | 1 g | C(#N)C=1C=C2C3C(C(OC2=CC1)(C)C)O3 | C12H11NO2
reactant | 3-hydroxypyridazine | 1 g | OC=1N=NC=CC1 | C4H4N2O
reactant | benzyltrimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | trans-6-Cyano-4-(1,6-dihydro-6-oxopyridazin-1-yl)-2,2-dimethylchroman-3-ol | 0.9 g | C(#N)C=1C=C2[C@H]([C@@H](C(OC2=CC1)(C)C)O)N1N=CC=CC1=O | C16H15N3O3
